US08357693B2
tert-butyl 5-(7-methoxy-6-(3-morpholinopropoxy)-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
A mixture of tert-Butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.70 g, 1.32 mmol), 4-(3-chloropropyl)morpholine (0.32 g, 1.96 mmol) and K2CO3 (1.33 g, 9.62 mmol) in DMF (10 mL) was heated at 80° C. for 2.5 h. The mixture was allowed to cool to RT and the volatiles were removed in vacuo. The crude product was purified by column chromatography (SiO2, CH2Cl2 97:3 to 94:6 to 90:10) to give the desired compound tert-butyl 5-(7-methoxy-6-(3-morpholinopropoxy)-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. HPLC retention time (5.76 min).

reactant | tert-Butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 1.32 mmol, 0.70 g | OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C27H24N6O6
reactant | 4-(3-chloropropyl)morpholine | 1.96 mmol, 0.32 g | ClCCCN1CCOCC1 | C7H14ClNO
reactant | K2CO3 | 9.62 mmol, 1.33 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(7-methoxy-6-(3-morpholinopropoxy)-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCCN1CCOCC1 | C34H37N7O7
